US09085540B2
A mixture of 5-{[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)benzyl]oxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (540 mg), tetrahydrofuran (10.8 mL), ethanol (10.8 mL), and hydrazine monohydrate (160 mg) was stirred at room temperature for 30 hours. The reactant was subjected to liquid separation by the addition of water and chloroform. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type: eluent; ethyl acetate, and then chloroform:methanol=97:3) to obtain 5-[(2-aminobenzyl)oxy]-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (315 mg) as a brown solid.

reactant | 5-{[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)benzyl]oxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 540 mg | O=C1N(C(C2=CC=CC=C12)=O)C1=C(COC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)C=CC=C1 | C38H42N8O4
reactant | tetrahydrofuran | 10.8 mL | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 160 mg | O.NN
solvent | ethanol | 10.8 mL | C(C)O | C2H6O
product | 5-[(2-aminobenzyl)oxy]-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 315 mg | NC1=C(COC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)C=CC=C1 | C30H40N8O2
